US09056853B2
2-{2-[5-Bromo-2-(2-chloro-phenyl)-2H-pyrazol-3-yl]-2-oxo-ethyl}-5-chloro-3-methyl-N-(1-oxo-hexahydro-1lambda*6*-thiopyran-1-ylidene)-benzamide
0.2 g 2-{2-[5-Bromo-2-(2-chloro-phenyl)-2H-pyrazol-3-yl]-2-oxo-ethyl}-5-chloro-3-methyl-N-(tetrahydro-1lambda*4*-thiopyran-1-ylidene)-benzamide (0.35 mmol) were dissolved in 10 ml acetic acid. 4 mg Sodium wolframate dihydrate were added. 45 mg of a 30% solution of hydrogenperoxide was added dropwise and the resulting solution was stirred for 18 h. The reaction mixture was poured into a saturated aqueous sodium carbonate solution, methylene chloride was added and the organic pase was subsequently washed with water and saturated aqueous sodium carbonate. The organic solvent was dried and the solvent removed. Column chromatography yielded 0.07 g of the desired product, compound I.4-22.

reactant | 2-{2-[5-Bromo-2-(2-chloro-phenyl)-2H-pyrazol-3-yl]-2-oxo-ethyl}-5-chloro-3-methyl-N-(tetrahydro-1lambda*4*-thiopyran-1-ylidene)-benzamide | 0.35 mmol, 0.2 g | BrC=1C=C(N(N1)C1=C(C=CC=C1)Cl)C(CC1=C(C(=O)N=S2CCCCC2)C=C(C=C1C)Cl)=O | C24H22BrCl2N3O2S
reactant | hydrogenperoxide | OO | H2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-{2-[5-Bromo-2-(2-chloro-phenyl)-2H-pyrazol-3-yl]-2-oxo-ethyl}-5-chloro-3-methyl-N-(1-oxo-hexahydro-1lambda*6*-thiopyran-1-ylidene)-benzamide | 0.07 g | BrC=1C=C(N(N1)C1=C(C=CC=C1)Cl)C(CC1=C(C(=O)N=S2(CCCCC2)=O)C=C(C=C1C)Cl)=O | C24H22BrCl2N3O3S
